US04150134
a. 2-Methoxy-10-ethyl-9(10H)-acridinone
Similarly, there was prepared, from 3-chloro-9(10H)-acridinone and ethyl acetate, 3-chloro-10-ethyl-9(10H)-acridinone, m.p. 169°-171° C.

reactant | 3-chloro-9(10H)-acridinone | ClC=1C=CC=2C(C3=CC=CC=C3NC2C1)=O | C13H8ClNO
reactant | 3-chloro-10-ethyl-9(10H)-acridinone | ClC=1C=CC=2C(C3=CC=CC=C3N(C2C1)CC)=O | C15H12ClNO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Methoxy-10-ethyl-9(10H)-acridinone | COC1=CC=2C(C3=CC=CC=C3N(C2C=C1)CC)=O | C16H15NO2
